datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CCC[NH:10]CC[S-].C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>CCC[NH+:10](CC[S-])[H:20].C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"C[NH:10]CC(=O)[O-].N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20]>>C[NH+:10](CC(=O)[O-])[H:20].N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"C1CCC([NH:10]C2CCCCO2)OC1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C1CCC([NH+:10](C2CCCCO2)[H:20])OC1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Cc1ccccc1/C(=N\CCC[N+:21](C)(C)[H:20])c1cccc2ccccc12.c1ccc2c([NH2:10])n[nH]c2c1>>Cc1ccccc1/C(=N\CCC[N:21](C)C)c1cccc2ccccc12.c1ccc2c([NH2+:10][H:20])n[nH]c2c1 10=20;20,21=21",
"C=C(C)[C@H]1C[NH2+][C@H](C(=O)[O:21][H:20])[C@H]1CC(N)=O.CCC[N:10](CCC)CC(=O)NC1c2ccccc2-c2ccccc21>>C=C(C)[C@H]1C[NH2+][C@H](C(=O)[O-:21])[C@H]1CC(N)=O.CCC[N+:10](CCC)(CC(=O)NC1c2ccccc2-c2ccccc21)[H:20] 10=20;20,21=21",
"C=C(C)C(=O)OCCC[NH2+:21][H:20].O=[Se](c1ccccc1)[O-:10]>>C=C(C)C(=O)OCCC[NH2:21].O=[Se](c1ccccc1)[O:10][H:20] 10=20;20,21=21",
"CN[C@H]1C[C@]1(C)[NH:10]C.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>CN[C@H]1C[C@]1(C)[NH+:10](C)[H:20].C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"O=Cc1cc(Cl)cc([N+](=O)[O-])c1[O:21][H:20].[O-]c1ncnc2nc[n-:10]c12>>O=Cc1cc(Cl)cc([N+](=O)[O-])c1[O-:21].[O-]c1ncnc2nc[n:10]([H:20])c12 10=20;20,21=21",
"C[N+]1=CC=CC(C(=O)[CH:21](C2=CC=C(C#N)C=C2)[H:20])=C1.C[NH+](c1ccccc1)C([O-])[O-:10]>>C[N+]1=CC=CC(C(=O)[CH-:21]C2=CC=C(C#N)C=C2)=C1.C[NH+](c1ccccc1)C([O-])[O:10][H:20] 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].[Se-]CCC[NH2:10]>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[Se-]CCC[NH2+:10][H:20] 10=20;20,21=21",
"CC[N+:21](CC)(CCNc1nc(N)nc(C)c1C)[H:20].C[C@H]1O[C@H](O[C@H]2CC[C@H](N3C=CC(N)=NC3=O)O[C@@H]2C)[C@H](O)[C@@H](O)[C@@H]1[N:10](C)C>>CC[N:21](CC)CCNc1nc(N)nc(C)c1C.C[C@H]1O[C@H](O[C@H]2CC[C@H](N3C=CC(N)=NC3=O)O[C@@H]2C)[C@H](O)[C@@H](O)[C@@H]1[N+:10](C)(C)[H:20] 10=20;20,21=21",
"C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1.C[NH:10]CCCN1c2ccccc2CCc2ccccc21>>C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1.C[NH+:10](CCCN1c2ccccc2CCc2ccccc21)[H:20] 10=20;20,21=21",
"C[NH+](C)CCCCCCCCCCNC(=O)/C=N/[O-:10].O[C@H]1CCCC[C@H]1[NH2+:21][H:20]>>C[NH+](C)CCCCCCCCCCNC(=O)/C=N/[O:10][H:20].O[C@H]1CCCC[C@H]1[NH2:21] 10=20;20,21=21",
"CSc1ccc([NH2+:21][H:20])cc1Cl.[O-]c1ccc([O-:10])n[nH+]1>>CSc1ccc([NH2:21])cc1Cl.[O-]c1ccc([O:10][H:20])n[nH+]1 10=20;20,21=21",
"CC/C=C/Cc1nccn1C(C(=O)[O-])C(C)(C)[S-:10].CCc1nnc(CC)n1[NH:21][H:20]>>CC/C=C/Cc1nccn1C(C(=O)[O-])C(C)(C)[S:10][H:20].CCc1nnc(CC)n1[NH-:21] 10=20;20,21=21",
"C1C[N:10](CC2CO2)CCO1.CCS/C(c1cccc(C)c1)=[O+:21]\[H:20]>>C1C[N+:10](CC2CO2)([H:20])CCO1.CCSC(c1cccc(C)c1)=[O:21] 10=20;20,21=21",
"C#CC(CC)(CC)[N+:21](CC)(C(C)C)[H:20].S=C1C=C(c2ccc([O-:10])cc2)SS1>>C#CC(CC)(CC)[N:21](CC)C(C)C.S=C1C=C(c2ccc([O:10][H:20])cc2)SS1 10=20;20,21=21",
"CC[NH2+]CC[Se:21][H:20].Cc1cccc(-n2nn[n:10]c2N)c1>>CC[NH2+]CC[Se-:21].Cc1cccc(-n2nn[n+:10]([H:20])c2N)c1 10=20;20,21=21",
"CCSC(O)(C(F)(F)F)[OH+:21][H:20].Cc1cc2nc3ccc(N(C)C)cc3nc2cc1[NH-:10]>>CCSC(O)(C(F)(F)F)[OH:21].Cc1cc2nc3ccc(N(C)C)cc3nc2cc1[NH:10][H:20] 10=20;20,21=21",
"CC(C)(C)O[O:21][H:20].Nc1nccc2c1[n:10]cn2CCOCP(=O)([O-])[O-]>>CC(C)(C)O[O-:21].Nc1nccc2c1[n+:10]([H:20])cn2CCOCP(=O)([O-])[O-] 10=20;20,21=21",
"CC[N:10](CC)Cc1ccccc1OC.O=C([O-])[C@H]([NH2+]CC[NH+:21]([C@@H](C(=O)[O-])c1ccccc1O)[H:20])c1ccccc1O>>CC[N+:10](CC)(Cc1ccccc1OC)[H:20].O=C([O-])[C@H]([NH2+]CC[NH:21][C@@H](C(=O)[O-])c1ccccc1O)c1ccccc1O 10=20;20,21=21",
"C[NH:10]CC(O)CO.O=C(C1CC1)[O:21][H:20]>>C[NH+:10](CC(O)CO)[H:20].O=C(C1CC1)[O-:21] 10=20;20,21=21",
"Cc1ccc([O-:10])c(Cc2cc([N+](=O)[O-])ccc2[O-])c1.O=C(C1=CC=CC=C1)[C:21](C1=CC=CC=C1)([N+](=O)[O-])[H:20]>>Cc1ccc([O:10][H:20])c(Cc2cc([N+](=O)[O-])ccc2[O-])c1.O=C(C1=CC=CC=C1)[C-:21](C1=CC=CC=C1)[N+](=O)[O-] 10=20;20,21=21",
"CCOc1ccc2c(c1)c(N1CCOCC1)c1c([n:10]2)CCC1.COc1ccc(/C=N/[O:21][H:20])cc1OC>>CCOc1ccc2c(c1)c(N1CCOCC1)c1c([n+:10]2[H:20])CCC1.COc1ccc(/C=N/[O-:21])cc1OC 10=20;20,21=21",
"NC(=O)[C@@H]([C@H](O)C(=O)O)[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>NC(=O)[C@@H]([C@H](O)C(=O)O)[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"O=[N+]([O-])c1ccc([O-:10])c(O)c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=[N+]([O-])c1ccc([O:10][H:20])c(O)c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCC(C)(C)[N+:21](C)(C(C)(C)C)[H:20].C[NH+](C)CCNCC[NH2:10]>>CCC(C)(C)[N:21](C)C(C)(C)C.C[NH+](C)CCNCC[NH2+:10][H:20] 10=20;20,21=21",
"Cc1ccc([NH2+:21][H:20])cc1[N+](=O)[O-].Oc1cccc2c([NH2:10])cccc12>>Cc1ccc([NH2:21])cc1[N+](=O)[O-].Oc1cccc2c([NH2+:10][H:20])cccc12 10=20;20,21=21",
"CN(C)/C=N/c1cccc([O-:10])c1.O=S(=O)(c1ccc(Cl)cc1)[N:21](c1ccccc1)[H:20]>>CN(C)/C=N/c1cccc([O:10][H:20])c1.O=S(=O)(c1ccc(Cl)cc1)[N-:21]c1ccccc1 10=20;20,21=21",
